data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-C(C)(C)C_2-CC(C)CC","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C(C)(C)C[Mg]Br","CON(C)C(=O)(CC(C)CC)","O"],"products_smiles": ["C(=O)(C(C)(C)C)(CC(C)CC)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(CC(C)CC)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(CC(C)CC)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(CC(C)CC)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(CC(C)CC)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-127_1-CC_2-CC_3-C(F)(F)F","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(CC)(CC)(C(F)(F)F)C(=O)OC"],"products_smiles": ["C(CC)(CC)(C(F)(F)F)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)(CC)(C(F)(F)F)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](CC)(CC)(C(F)(F)F)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(CC)(C(F)(F)F)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
{"reaction_id": "NR-144_1-c1ccc(OC)cc1_2-C_3-Cl_4-C_5-Oc1ccccc1","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(C)=C(Cl)C(=O)Oc1ccccc1","S([H])C"],"products_smiles": ["S(C)C(c1ccc(OC)cc1)(C)C(Cl)C(=O)Oc1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(c1ccc(OC)cc1)(C)C(Cl)=C([O-])Oc1ccccc1","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(c1ccc(OC)cc1)(C)C(Cl)C(=O)Oc1ccccc1","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
